US07622471B2
1) 5-Hydroxy-1-(6-methoxy-3-pyridyl)-5-(2-pyridyl)-4,5-dihydropyrazole-3-carboxylic acid ethyl ester
4-(2-Pyridyl)-2,4-dioxobutanoic acid ethyl ester (1.10 g) obtained from Referential Example 31 and 5-hydrazino-2-methoxypyridine (0.692 g) obtained from Referential Example 2 were dissolved in ethanol (22 mL). The resultant mixture was refluxed under heat for 14 hours, followed by cooling in air. The solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane-ethyl acetate), followed by purification through silica gel column chromatography (toluene-acetone), to thereby give 5-hydroxy-1-(6-methoxy-3-pyridyl)-5-(2-pyridyl)-4,5-dihydropyrazole-3-carboxylic acid ethyl ester as a solid substance (0.575 g, 34%).

reactant | 4-(2-Pyridyl)-2,4-dioxobutanoic acid ethyl ester | 1.10 g | C(C)OC(C(CC(=O)C1=NC=CC=C1)=O)=O | C11H11NO4
reactant | 5-hydrazino-2-methoxypyridine | 0.692 g | N(N)C=1C=CC(=NC1)OC | C6H9N3O
solvent | ethanol | 22 mL | C(C)O | C2H6O
product | 5-Hydroxy-1-(6-methoxy-3-pyridyl)-5-(2-pyridyl)-4,5-dihydropyrazole-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=NN(C(C1)(C1=NC=CC=C1)O)C=1C=NC(=CC1)OC | C17H18N4O4
